US08703758B2
J) 3-{trans-4-[6-(cyclopropylmethoxy)-2H-indazol-2-yl]cyclohexyl}-1-methylpropyl methanesulfonate
To a solution of 4-{trans-4-[6-(cyclopropylmethoxy)-2H-indazol-2-yl]cyclohexyl}butan-2-ol (2.45 g) and triethylamine (1.50 mL) in THF (50 mL) was added dropwise a solution of sulfonyl chloride (0.83 mL) in THF (50 mL) under ice-cooling, and the mixture was stirred for 1 hr under ice-cooling. The reaction mixture was poured into 1N hydrochloric acid under ice-cooling, and the mixture was extracted with ethyl acetate. The organic layer was washed with water, aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give the title compound (2.98 g).

reactant | 4-{trans-4-[6-(cyclopropylmethoxy)-2H-indazol-2-yl]cyclohexyl}butan-2-ol | 2.45 g | C1(CC1)COC=1C=CC2=CN(N=C2C1)[C@@H]1CC[C@H](CC1)CCC(C)O | C21H30N2O2
reactant | triethylamine | 1.50 mL | C(C)N(CC)CC | C6H15N
reactant | sulfonyl chloride | 0.83 mL | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 3-{trans-4-[6-(cyclopropylmethoxy)-2H-indazol-2-yl]cyclohexyl}-1-methylpropyl methanesulfonate | 2.98 g | CS(=O)(=O)OC(CC[C@@H]1CC[C@H](CC1)N1N=C2C=C(C=CC2=C1)OCC1CC1)C | C22H32N2O4S
